US07091353B2
Methyl-3-[(benzyloxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate
Triethylamine (1.87 g, 18.5 mmol) was added to a stirred suspension of methyl-3-(aminomethyl)-2-(methoxycarbonyl)benzoate hydrochloride (2.0 g, 8 mmol) in dichloromethane (30 ml). The mixture was cooled in an ice bath to 4° C. Benzyl chloroformate (1.66 g, 10 mmol) was added slowly keeping the temperature between 4–7° C. After the addition was complete, the cooled mixture was stirred an additional 30 minutes and then warmed to room temperature for 4 hours. The mixture was washed with water (2×30 ml), brine (30 ml) and dried. Solvent was removed and the residue was purified by chromatography (dichloromethane/ethyl acetate 95 to 5) to give 2.1 g (76%) of the product as a solid; 1H NMR (CDCl3) δ 7.87 (d, J=7.8 Hz, 1H), 7.63 (d, J=7.6 Hz, 1H), 7.46 (t, J=7.7 Hz, 1H), 7.36–7.26 (m, 5H), 5.41 (b, 1H), 5.09 (s, 2H), 4.36 (d, J=6.3 Hz, 2H), 3.91 (s, 3H), 3.88 (s, 3H).

reactant | Triethylamine | 18.5 mmol, 1.87 g | C(C)N(CC)CC | C6H15N
reactant | methyl-3-(aminomethyl)-2-(methoxycarbonyl)benzoate hydrochloride | 8 mmol, 2.0 g | Cl.COC(C1=C(C(=CC=C1)CN)C(=O)OC)=O
reactant | Benzyl chloroformate | 10 mmol, 1.66 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Methyl-3-[(benzyloxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate | 2.1 g, 76% | COC(C1=C(C(=CC=C1)CNC(=O)OCC1=CC=CC=C1)C(=O)OC)=O | C19H19NO6
